data/mechanisms/records/IMS4-FIG4.4b.json
{"mechanism_id": "IMS4-FIG4.4b", "species": [{"species_id": "diethylamine_radical_cation", "mapped_smiles": "[CH3:1][CH:2]([1H:6])[NH+:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "iminium_ion_72", "mapped_smiles": "[CH3:1][CH:2]=[NH+:3][CH2:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hydrogen_radical", "mapped_smiles": "[1H:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["diethylamine_radical_cation"]}, {"state_id": "state_products", "species_ids": ["iminium_ion_72", "hydrogen_radical"]}], "steps": [{"step_id": "step_alpha_cleavage_h", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_h", "support_type": "textbook_proposed", "locator": {"page": 62, "equation": null, "figure": "4.4", "panel": null, "section": "Chapter 4 Basic Mechanisms of Ion Fragmentation; radical-site (alpha) cleavage of amines"}, "confidence": 0.85, "curator_note": "ARC COUNT / DRAWN-vs-INFERRED (convention D): Figure 4.4 is the diethylamine BAR SPECTRUM annotated with wavy cleavage-marks (which bond breaks -> which m/z) and the '58a' peak label; it draws 0 curved electron-pushing arrows. The 3-fishhook alpha-cleavage flow encoded here is curator-inferred from the book's own alpha attribution (the cleavage-mark + 'a' label), not transcribed from drawn arcs. Second alpha channel of the same diethylamine molecular ion (m/z 73, M+.): loss of a hydrogen atom from the alpha carbon gives the iminium ion CH3-CH=N(+)(H)-CH2CH3 at m/z 72 (M-1). Book draws 0 curved arrows for this step: it is shown by a horizontal squiggly bond-cleavage mark drawn across the alpha C-H bond of the explicitly drawn CH2 group, bracketed and labelled '72' (McLafferty's cleavage notation, not electron-pushing arrows). All 3 electron moves are encoded here for electron balance (odd electron on N into the forming N=C pi bond; one electron of the breaking Ca-H sigma into that pi bond; the second electron of that sigma onto the departing H atom); NONE is drawn as an arc on the page. The alpha carbon's departing hydrogen is given explicit atom map :6 so the homolysis is balanced; it carries an explicit protium isotope tag [1H] (mass 1.008, chemically ordinary hydrogen) purely as a tooling device so RDKit retains it as a mapped atom instead of folding it into an implicit H count -- it is NOT an isotopic label of the real molecule."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 73.0886, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_72", "species_id": "iminium_ion_72", "step_id": "step_alpha_cleavage_h", "observed_mz": 72.0808, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
